US06710078B2
According to the procedure of Method A, Example 1, (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone was reacted with 3-mercapto-1-propanol to provide 5-[2-[(3-hydroxypropyl)thio]-2-(3-thienyl)ethyl]-2-methyl-2-phenylfuran-3(2H)-one; 1H NMR (CDCl3) δ1.40 (br s, 1H), 1.65 and 1.68 (singlets, 3H), 1.68-1.82 (m, 2H), 2.42-2.57 (m, 2H), 3.10-3.27 (m, 2H), 3.67 (m, 2H), 4.42 (m, 1H), 5.37 and 5.39 (singlets, 1H), 7.05-7.18 (m, 2H), 7.27-7.40 (m, 6H); MS (HR-FAB) m/z 375.1113 (M+H calcd. for C20H23O3S2 375.1089).

reactant | (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone | CC1(OC(=CC1=O)\C=C\C1=CSC=C1)C1=CC=CC=C1 | C17H14O2S
reactant | 3-mercapto-1-propanol | SCCCO | C3H8OS
product | 5-[2-[(3-hydroxypropyl)thio]-2-(3-thienyl)ethyl]-2-methyl-2-phenylfuran-3(2H)-one | OCCCSC(CC1=CC(C(O1)(C1=CC=CC=C1)C)=O)C1=CSC=C1 | C20H22O3S2
